US07160887B1
Aqueous 1 N sodium hydroxide solution (10 ml, 10 mmols) was added to a solution of ethyl N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]-N-(2,3-dichlorobenzyl)succinamate (3.18 g, 5 mmols) in tetrahydrofuran (10 ml) and ethanol (10 ml). The resulting mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture, which was acidified with 1 N hydrochloric acid added thereto, and then extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure to give an amorphous solid of N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]-N-(3,4-dichlorobenzyl) succinamic acid (2.46 g, 81.2%).

reactant | sodium hydroxide | 10 mmols, 1 N, 10 ml | [OH-].[Na+]
reactant | ethyl N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]-N-(2,3-dichlorobenzyl)succinamate | 5 mmols, 3.18 g | C(C)(C)(C)OC(=O)NCC=1C=C(OC2=C(C=CC(=C2)Cl)N(C(CCC(=O)OCC)=O)CC2=C(C(=CC=C2)Cl)Cl)C=CC1 | C31H33Cl3N2O6
reactant | Water | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]-N-(3,4-dichlorobenzyl) succinamic acid | 2.46 g, 81.2% | C(C)(C)(C)OC(=O)NCC=1C=C(OC2=C(C=CC(=C2)Cl)N(C(CCC(=O)O)=O)CC2=CC(=C(C=C2)Cl)Cl)C=CC1 | C29H29Cl3N2O6
